US07683064B2
To a solution of 6-Chloro-nicotinic acid (3.00 g, 19.0 mmol) in 30 mL dimethylformamide was added (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (10.9 g, 20.9 mmol), 1-methylpiperazine (2.30 g, 22.1 mmol) and triethylamine (2.18 g, 21.5 mmol). After stirring for 18 hours, this was partitioned between ethyl acetate and water. The ethylacetate layer was dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by flash chromatography (elution with 3% methanol/dichloromethane) to yield (6-Chloro-pyridin-3-yl)-(4-methyl-piperazin-1-yl)-methanone (2.50 g, 9.33 mmol).

reactant | 6-Chloro-nicotinic acid | 19.0 mmol, 3.00 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 20.9 mmol, 10.9 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 1-methylpiperazine | 22.1 mmol, 2.30 g | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 21.5 mmol, 2.18 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | (6-Chloro-pyridin-3-yl)-(4-methyl-piperazin-1-yl)-methanone | 9.33 mmol, 2.50 g | ClC1=CC=C(C=N1)C(=O)N1CCN(CC1)C | C11H14ClN3O
